US07589232B2
Step a) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoate
The titled compound was prepared following the procedure B using methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate and tert-butylacetyl chloride as a pale yellow oil (97%). 1H NMR (CDCl3, 300 MHz) δ 7.61 (dd, J=6.0, 1.9 Hz, 1H), 7.44 (m, 4H), 7.16 (m, 4H), 7.08 (m, 1H), 6.99 (m, 1H), 4.88 (s, 2H), 3.94 (s, 3H), 2.63 (t, J=7.7 Hz, 2H), 2.00 (s, 2H), 1.61 (m, 2H), 1.37 (m, 2H), 0.99 (s, 9H), 0.94 (t, J=7.3 Hz, 3H). M+ (ESI): 514.0, HPLC, Rt: 5.92 min (Purity: 100.0%).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | tert-butylacetyl chloride | C(C)(C)(C)CC(=O)Cl | C6H11ClO
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3-dimethylbutanoyl)amino]-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)C(CC(C)(C)C)=O)C=C1 | C33H36FNO3
